US07291622B2
2F) 1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxamidine
33.76 g (32.19 ml, 562 mmol) of glacial acetic acid and 9.28 g (173 mmol) of ammonium chloride are added to the solution of methyl(2-fluorobenzyl)-1H-pyrazolo[3,4-b]pyridine-3-carboximidate in methanol obtained from example 2E), and the mixture is stirred under reflux overnight. The solvent is evaporated in vacuo, the residue is thoroughly triturated with acetone, and the precipitated solid is filtered off with suction.

reactant | acetic acid | 562 mmol, 32.19 ml, 33.76 g | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | 173 mmol, 9.28 g | [Cl-].[NH4+]
reactant | methyl(2-fluorobenzyl)-1H-pyrazolo[3,4-b]pyridine-3-carboximidate | CC1=C2C(=NC=C1)N(N=C2C([O-])=N)CC2=C(C=CC=C2)F
solvent | methanol | CO | CH4O
product | 1-(2-Fluorobenzyl)-1H-pyrazolo[3,4-b]pyridine-3-carboxamidine | FC1=C(CN2N=C(C=3C2=NC=CC3)C(=N)N)C=CC=C1 | C14H12FN5
